US06777408B1
ethyl 5-(2-chlorophenyl)-1,2,3,6,7,9-hexahydro-2-oxo-1-(2-phenylethyl)-8H-pyrido[4′,3′:4,5]thieno[2,3-e]-1,4-diazepine-8-carboxylate
18 g of ethyl 5-(2-chlorophenyl)-1,2,3,6,7,9-hexahydro-2-oxo-8H-pyrido[4′,3′:4,5]thieno[2,3-e]-1,4-diazepine-8-carboxylate (4.46 mmol) is solubilized under argon, in 180 ml of anhydrous dimethylformamide. Sodium hydride at 60% (1.784 g, 4.46 mmol) is added then the reaction medium is heated for approximately 30 minutes at 50° C. until there is no more release. The reaction medium is cooled down to a temperature around 20° C. then 2-bromoethylbenzene (6.2 ml, 4.46 mmol) is added with a syringe. Agitation is carried out for 16 hours at 23° C. then the reaction medium is poured into a saturated solution of ammonium chloride (400 ml). Extraction is carried out with ethyl acetate (2×500 ml). The organic phase is dried over magnesium sulphate then the solvent is evaporated off with a rotary evaporator. After purification by chromatography on a silica column (eluent ethyl acetate-heptane: 0-100 to 20-80), the fractions containing only the product are evaporated and the desired product is obtained in the form of a white amorphous powder (20.3 g, 89%).

reactant | ethyl 5-(2-chlorophenyl)-1,2,3,6,7,9-hexahydro-2-oxo-8H-pyrido[4′,3′:4,5]thieno[2,3-e]-1,4-diazepine-8-carboxylate | 4.46 mmol, 18 g | ClC1=C(C=CC=C1)C=1C2=C(NC(CN1)=O)SC1=C2CCN(C1)C(=O)OCC | C19H18ClN3O3S
reactant | Sodium hydride | [H-].[Na+]
reactant | 2-bromoethylbenzene | 4.46 mmol, 6.2 ml | BrCCC1=CC=CC=C1 | C8H9Br
reactant | ammonium chloride | 400 ml | [Cl-].[NH4+]
solvent | dimethylformamide | 180 ml | CN(C=O)C | C3H7NO
product | ethyl 5-(2-chlorophenyl)-1,2,3,6,7,9-hexahydro-2-oxo-1-(2-phenylethyl)-8H-pyrido[4′,3′:4,5]thieno[2,3-e]-1,4-diazepine-8-carboxylate | ClC1=C(C=CC=C1)C=1C2=C(N(C(CN1)=O)CCC1=CC=CC=C1)SC1=C2CCN(C1)C(=O)OCC | C27H26ClN3O3S
